US04293569
[[[2-(Acetylamino)-4-[(2-methylpropyl)sulfinyl]phenyl]amino][(methoxycarbonyl)amino]methylene]carbamic acid, methyl ester
To a solution of 3.9 g (0.01 mole) of [[[2-(acetylamino)-4-[(2-methylpropyl)thio]phenyl]amino][(methoxycarbonyl)amino]methylene carbamic acid, methyl ester in 250 ml of chloroform there is added 2.0 g (0.01 mole of 85% m-chloroperoxybenzoic acid in 10 ml of chloroform with ice bath cooling. The reaction mixture is allowed to warm to room temperature and then stirred for 3 hours. The reaction mixture is washed with aqueous potassium carbonate and then with water until the pH is 7. The organic layer is dried (MgSO4), filtered, and evaporated in vacuo. The residue is crystallized from ethanol to yield 1.8 g, m.p. 178°-180° C. dec.

reactant | [[2-(acetylamino)-4-[(2-methylpropyl)thio]phenyl]amino][(methoxycarbonyl)amino]methylene carbamic acid, methyl ester | C(C)(=O)NC1=C(C=CC(=C1)SCC(C)C)NC(NC(=O)OC)=NC(OC)=O | C17H24N4O5S
reactant | m-chloroperoxybenzoic acid | 0.01 mole | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | [[[2-(Acetylamino)-4-[(2-methylpropyl)sulfinyl]phenyl]amino][(methoxycarbonyl)amino]methylene]carbamic acid, methyl ester | C(C)(=O)NC1=C(C=CC(=C1)S(=O)CC(C)C)NC(NC(=O)OC)=NC(OC)=O | C17H24N4O6S
